US07994164B2
(E)-N—((R)-5-((E)-3,8-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide
Dissolve (R)-[4-((E)-3,8-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(1-methyl-2-morpholin-4-yl-ethyl)-amine (0.017 mol, 9.0 g) in tetrahydrofuran (35 mL) and isopropanol (90 mL). Add triethylamine (0.039 mol, 3.9) and 10% platinum on carbon (1.5 g) and hydrogenate in a Parr shaker at 50 psi (H2) at room temperature for 2 h. Filter off the catalyst through a plug of diatomaceous earth. Dilute the filtrate with dioxane (35 mL), add diphenyl N-cyanocarbonimidate (0.019 mol, 4.61 g) and stir at room temperature for 48 h. Concentrate the reaction mixture under reduced pressure. Purify on a silica gel column using 0.5% methanol in dichloromethane as eluent to obtain the title compound (6.0 g, 64%) as an off-white solid. LC-MS m/z 528.2 [M+H]+.

reactant | (R)-[4-((E)-3,8-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(1-methyl-2-morpholin-4-yl-ethyl)-amine | 0.017 mol, 9.0 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@@H](CN2CCOCC2)C)[N+](=O)[O-])C=CC(=C3)F)C1 | C28H27F2N3O4
reactant | triethylamine | 0.039 mol | C(C)N(CC)CC | C6H15N
reactant | diphenyl N-cyanocarbonimidate | 0.019 mol, 4.61 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | isopropanol | 90 mL | C(C)(C)O | C3H8O
catalyst | platinum on carbon | 1.5 g | [Pt] | Pt
product | (E)-N—((R)-5-((E)-3,8-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 6.0 g, 64% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@@H](CN4CCOCC4)C)C=C2)C=CC(=C3)F)C1 | C30H27F2N5O2
